US07517995B2
tert-butyl[3-oxo-3-(N′-propionyl-hydrazino)-propyl]-carbamate
25.00 g (132 mmol) 3-tert-butoxycarbonylamino-propionic acid, 11.45 g (130 mmol) ethanoic hydrazide, 50.91 g (159 mmol) O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU) and 50 ml diisopropylethylamine are stirred in 500 ml of tetrahydrofuran/dichloromethane for 24 hours at ambient temperature. Then the mixture is evaporated down, the residue is extracted with ethyl acetate and 10% potassium hydrogen carbonate solution. The organic phase is dried and evaporated to dryness. The residue is crystallised from isopropylether.

reactant | 3-tert-butoxycarbonylamino-propionic acid | 132 mmol, 25.00 g | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | ethanoic hydrazide | 130 mmol, 11.45 g | C(C)(=O)NN | C2H6N2O
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 159 mmol, 50.91 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 50 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran dichloromethane | 500 ml | O1CCCC1.ClCCl
product | tert-butyl[3-oxo-3-(N′-propionyl-hydrazino)-propyl]-carbamate | C(C)(C)(C)OC(NCCC(NNC(CC)=O)=O)=O | C11H21N3O4
